US08309546B2
Step 6: 5-{9-Isobutyl-8-[4-(methylsulfonyl)piperazin-1-yl]-6-morpholin-4-yl-9H-purin-2-yl}pyrimidin-2-amine
Triethylamine (143 μl) and mesyl chloride (50 μl, 0.63 mmol) were added to 5-(9-isobutyl-6-morpholin-4-yl-8-piperazin-1-yl-9H-purin-2-yl)pyrimidin-2-amine (2 ml of solution of 100 mg of this compound in 1 ml of NMP) and the resulting mixture was stirred for 1 hour. Mesyl chloride (50 μl, 0.63 mmol) was further added, the resulting mixture was stirred for 1 hour, then the reaction mixture was partitioned with ethyl acetate and water, and the organic layer was dried over magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by preparative HPLC (column, NOMURA Develosil Combi-RP-5; mobile phase, acetonitrile/water/formic acid) to give the title compound (135 mg, 51%) as a pale yellow solid.

reactant | Triethylamine | 143 μl | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 0.63 mmol, 50 μl | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | 5-(9-isobutyl-6-morpholin-4-yl-8-piperazin-1-yl-9H-purin-2-yl)pyrimidin-2-amine | C(C(C)C)N1C2=NC(=NC(=C2N=C1N1CCNCC1)N1CCOCC1)C=1C=NC(=NC1)N | C21H30N10O
reactant | Mesyl chloride | 0.63 mmol, 50 μl | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | NMP | 1 ml | CN1CCCC1=O | C5H9NO
product | 5-{9-Isobutyl-8-[4-(methylsulfonyl)piperazin-1-yl]-6-morpholin-4-yl-9H-purin-2-yl}pyrimidin-2-amine | 135 mg, 51% | C(C(C)C)N1C2=NC(=NC(=C2N=C1N1CCN(CC1)S(=O)(=O)C)N1CCOCC1)C=1C=NC(=NC1)N | C22H32N10O3S
